2187-07-26 08:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -unable to place additional PIVs
   -mental status appeared acutely worse overnight
   -pt trialed on CPAP without significant change
   -pt treated with IV bicarb
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-7-25**] 08:28 AM
   Heparin Sodium (Prophylaxis) - [**2187-7-26**] 06:25 AM
   Other medications:
   Changes to medical and family history:
   Flowsheet Data as of  [**2187-7-26**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.3
C (97.3
   HR: 70 (67 - 75) bpm
   BP: 176/76(101) {135/59(80) - 183/88(149)} mmHg
   RR: 19 (11 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,160 mL
                                                                  1,198 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                  2,560 mL
                                                                  1,198 mL
   Blood products:
   Total out:
                                                                  1,891 mL
                                                                    565 mL
   Urine:
                                                                  1,591 mL
                                                                    565 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,269 mL
                                                                    633 mL
   Respiratory support
   O2 Delivery Device: BiPaP FiO2 40%
   ABG: 7.20/40/88/16/-11
   Physical Examination
   GEN: Obese AA female, snoring loudly, opens eyes to name call, unable
   to answer questions
   HEENT: NCAT, EOMI, pin-point pupils, wide neck
   NECK: Supple, no LAD, no appreciable JVD
   CV: RRR, normal S1S2, 4/6 SEM, no rubs or gallops
   PULM: CTAB, no w/r/r, good air movement bilaterally
   ABD: Obese Soft, NTND, normoactive bowel sounds, no organomegaly, no
   abdominal bruit appreciated
   EXT: Warm and well perfused, full and symmetric distal pulses, no pedal
   edema. Legs bandaged.
   NEURO: EOMI, moves all 4 extremities upon request. Otherwise not
   cooperative with exam. 2+ patellar reflex. Downgoing toes b/l.
   Labs / Radiology
   280 K/uL
   9.5 g/dL
   72 mg/dL
   10.3 mg/dL
   14 mEq/L
   5.6 mEq/L
   86 mg/dL
   111 mEq/L
   141 mEq/L
   30.6 %
   10.1 K/uL
        [image002.jpg]
                             [**2187-7-25**]  05:02 AM
                             [**2187-7-25**]  05:13 PM
                             [**2187-7-25**]  10:33 PM
   WBC
   12.0
   10.1
   Hct
   31.7
   30.6
   Plt
   299
   280
   Cr
   10.6
   10.3
   TropT
   0.07
   TCO2
   16
   Glucose
   71
   72
   Other labs: CK / CKMB / Troponin-T:73//0.07, Ca++:8.2 mg/dL, Mg++:2.2
   mg/dL, PO4:8.9 mg/dL
   Assessment and Plan
   52 y/o female w/ hx of CVA, DM, ? CAD, and HTN who presents w/ altered
   mental status and ARF.
   .
   # Altered Mental Status: Suspect most likely second to uremia from ARF.
   Currently no evidence to suggest infection or toxic process. MS has not
   yet improved however.
   - continue to hold all sedating meds
   - monitor renal function; d/w renal about probable HD today or tomorrow
   .
   # Acute on chronic renal failure: Suspect acute worsening of underlying
   poor renal function likely due to pre-renal azotemia. Pt has continued
   to make adequate urine however her renal failure is not improving.
   - appreciate renal input
   - pt to get temp HD cath today with HD to likely occur today or
   tomorrow
   - continue volume repletion with D5/bicarb
   - abd/pelvis scan without evidence obstruction
   - renally dose all meds; avoid nephrotoxins; exchange atenolol for
   metoprolol and hold Topamax as these are renally cleared
   .
   # AG acidosis: Thought to be due to ARF. Delta/delta ratio is <1. No
   evidence to support other cause such as lactic acidosis, ketoacidosis
   or toxin ingestion.
   - fluid hydration as above
   - plans for HD as above
   .
   # LE wounds/PG: Will touch base with pt
s [**Hospital1 183**] dermatologist. Wound care
   consult.
   .
   # DM: Continue pt's home insulin (decrease dose) with ISS.
   .
   # CAD: Continue home ASA; transition atenolol to metoprolol.
   .
   # HTN: Metoprolol as above. Hold CCB until pt's clinical direction more
   clear.
   .
   # GERD: PPI
   ICU Care
   Nutrition: PO diet
   Glycemic Control:  sugars well controlled on ISS
   Lines:
   20 Gauge - [**2187-7-25**] 03:30 AM
   Prophylaxis:
   DVT: hep subq
   Stress ulcer: PO diet
   Communication:  Comments:
   Code status: Full code
   Disposition: MICU
   ------ Protected Section ------
   Add hydralazine today for BP control.
   ------ Protected Section Addendum Entered By:[**Name (NI) 3987**] [**Last Name (NamePattern1) 4285**], MD
   on:[**2187-7-26**] 14:28 ------

2187-07-26 10:13:00 Physician Attending Progress Note
Chief Complaint: acute renal failure,
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Failed attempts at PIV
   Failed attempts at a line
   Bicarb - 4 AMPS overnight
   ABG 7.17/40/73
   This AM- more awake, perserverating on answers with questions
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2187-7-26**] 06:25 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-7-26**] 10:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 71 (67 - 75) bpm
   BP: 166/75(168) {135/59(80) - 183/88(168)} mmHg
   RR: 18 (11 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,160 mL
                                                                  1,588 mL
   PO:
                                                                    600 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  2,560 mL
                                                                  1,488 mL
   Blood products:
   Total out:
                                                                  1,891 mL
                                                                    865 mL
   Urine:
                                                                  1,591 mL
                                                                    865 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,269 mL
                                                                    723 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.17/42/117/14/-12
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Skin:  leg wounds dressing CDI
   Neurologic: Follows simple commands, Responds to: Verbal stimuli but
   repeats answers, perserverates
   Labs / Radiology
   9.5 g/dL
   280 K/uL
   72 mg/dL
   10.3 mg/dL
   14 mEq/L
   5.6 mEq/L
   86 mg/dL
   111 mEq/L
   141 mEq/L
   30.6 %
   10.1 K/uL
        [image002.jpg]
                             [**2187-7-25**]  05:02 AM
                             [**2187-7-25**]  05:13 PM
                             [**2187-7-25**]  10:33 PM
   WBC
   12.0
   10.1
   Hct
   31.7
   30.6
   Plt
   299
   280
   Cr
   10.6
   10.3
   TropT
   0.07
   TCO2
   16
   Glucose
   71
   72
   Other labs: CK / CKMB / Troponin-T:73//0.07, Ca++:8.2 mg/dL, Mg++:2.2
   mg/dL, PO4:8.9 mg/dL
   Assessment and Plan
   Assessment and Plan:  52 yo female CVA, DM, CRI with Acute on chronic
   renal failure.
   1)Renal: discussed indications for acute HD with Renal [**First Name9 (NamePattern2) 2491**] [**Location (un) 4577**] on
   rounds. He felt strongly that since she had received more fluid
   overnight we should check stat repeat Cr now and if worse proceed with
   HD but if sig better hold off another 24 hrs. We discussed that she is
   quite acidotic with limited respiratory reserve and consistently high
   K.  Going to IR for line place,emt today
   2) OSA: BIPAP at night auto titrate
   3) Delirium: mixed with uremia, acidosis, and med effect. More alert,
   follow exam closely.
   2)DM-continue insulin
   3)CV: continue lopressor, ASA
   4)Wound care-wound care following.
   5)ICU:SC heprin
   6)FEN: renal diet.
   ICU Care
   Nutrition: [**First Name9 (NamePattern2) 4578**] [**Doctor First Name 470**]
   Glycemic Control:  glargine plus SSRI
   Lines:
   20 Gauge - [**2187-7-25**] 03:30 AM
   Prophylaxis:
   DVT: SQ hep
   Communication:  with son
   [**Name (NI) 66**] status: Full code
   Disposition :ICU
   Total time spent: 45
 critically ill with acidosis, intermittent
   delirium and resp distress

2187-07-27 05:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2187-7-26**] 03:00 PM
   IR placement
   Given D5W with 3 amps bicarb, good uop
   Refused PO hydral during day, persistently hypertensive, got 2 doses IV
   hydral, BPs still in 180-190s overnight.  BB increased.
   Pt tolerated Bipap overnight.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydralazine - [**2187-7-26**] 07:45 PM
   Heparin Sodium (Prophylaxis) - [**2187-7-26**] 10:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-7-27**] 05:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.5
   HR: 68 (66 - 79) bpm
   BP: 157/69(88) {157/67(88) - 200/124(168)} mmHg
   RR: 21 (6 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,037 mL
                                                                    595 mL
   PO:
                                                                    160 mL
             TF:
   IVF:
                                                                  2,877 mL
                                                                    595 mL
   Blood products:
   Total out:
                                                                  3,065 mL
                                                                    560 mL
   Urine:
                                                                  3,065 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -28 mL
                                                                     35 mL
   Respiratory support
   SpO2: 95%
   ABG: ///18/
   Physical Examination
   GEN: Obese AA female, snoring loudly, opens eyes to name call, unable
   to answer questions
   HEENT: NCAT, EOMI, pin-point pupils, wide neck
   NECK: Supple, no LAD, no appreciable JVD
   CV: RRR, normal S1S2, 4/6 SEM, no rubs or gallops
   PULM: CTAB, no w/r/r, good air movement bilaterally
   ABD: Obese Soft, NTND, normoactive bowel sounds, no organomegaly, no
   abdominal bruit appreciated
   EXT: Warm and well perfused, full and symmetric distal pulses, no pedal
   edema. Legs bandaged.
   NEURO: EOMI, moves all 4 extremities upon request. Otherwise not
   cooperative with exam. 2+ patellar reflex. Downgoing toes b/l.
   Labs / Radiology
   294 K/uL
   9.2 g/dL
   134 mg/dL
   9.4 mg/dL
   18 mEq/L
   4.6 mEq/L
   81 mg/dL
   110 mEq/L
   142 mEq/L
   28.4 %
   9.5 K/uL
        [image002.jpg]
                             [**2187-7-25**]  05:02 AM
                             [**2187-7-25**]  05:13 PM
                             [**2187-7-25**]  10:33 PM
                             [**2187-7-26**]  10:37 AM
                             [**2187-7-26**]  08:01 PM
   WBC
   12.0
   10.1
   9.5
   Hct
   31.7
   30.6
   28.4
   Plt
   299
   280
   294
   Cr
   10.6
   10.3
   9.7
   9.4
   TropT
   0.07
   TCO2
   16
   Glucose
   71
   72
   76
   134
   Other labs: CK / CKMB / Troponin-T:73//0.07, Differential-Neuts:72.0 %,
   Band:0.0 %, Lymph:14.0 %, Mono:12.0 %, Eos:2.0 %, Ca++:8.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:7.7 mg/dL
   Assessment and Plan
   52 y/o female w/ hx of CVA, DM, ? CAD, and HTN who presents w/ altered
   mental status and ARF.
   .
   # Altered Mental Status: Suspect most likely second to uremia from ARF.
   Currently no evidence to suggest infection or toxic process. MS is now
   slowly improving.
   - continue to hold all sedating meds
   - monitor renal function; currently slowly improving
   -appreciate renal input; given improvement, plan to defer HD for now
   .
   # Acute on chronic renal failure: Suspect acute worsening of underlying
   poor renal function likely due to pre-renal azotemia. Pt has continued
   to make adequate urine however her renal failure is not improving.
   - appreciate renal input; continue to defer HD at the present time
   - volume repletion PRN
   - abd/pelvis scan without evidence obstruction
   - renally dose all meds; avoid nephrotoxins; exchange atenolol for
   metoprolol and hold Topamax as these are renally cleared
   .
   # AG acidosis: Much improved; thought to be due to ARF. No evidence to
   support other cause such as lactic acidosis, ketoacidosis or toxin
   ingestion.
   - hold fluid hydration at present and allow pt to drink to thirst
   - continue to trend
   - currently no plans for HD as described above
   .
   # LE wounds/PG: Appreciate wound care consult. Continue to monitor.
   .
   # DM: Continue pt's home insulin (decrease dose) with ISS.
   .
   # CAD: Continue home ASA; transition atenolol to metoprolol.
   .
   # HTN: Transition metoprolol to labetalol today. Titrate up based on
   BP.
   .
   # GERD: PPI
   ICU Care
   Nutrition: PO diet
   Glycemic Control:  sugars well controlled
   Lines:
   20 Gauge - [**2187-7-25**] 03:30 AM
   Dialysis Catheter - [**2187-7-26**] 03:00 PM
   Prophylaxis:
   DVT: hep subq
   Stress ulcer: PPI
   Code status: Full code
   Disposition: c/o to floor today

2187-07-27 09:58:00 Physician Attending Progress Note
Chief Complaint: acute renal faiuliure delirium
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2187-7-26**] 03:00 PM
   IR placement
   Persistent good UOP
   Tolerated BIPAP well overnight
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydralazine - [**2187-7-26**] 07:45 PM
   Heparin Sodium (Prophylaxis) - [**2187-7-27**] 05:57 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-7-27**] 09:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 63 (63 - 79) bpm
   BP: 180/89(113) {157/67(88) - 200/124(113)} mmHg
   RR: 21 (6 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,042 mL
                                                                  1,117 mL
   PO:
                                                                    160 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  2,882 mL
                                                                  1,017 mL
   Blood products:
   Total out:
                                                                  3,065 mL
                                                                    960 mL
   Urine:
                                                                  3,065 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -23 mL
                                                                    157 mL
   Respiratory support
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (S1: Normal, No(t) Absent), (S2: Normal, Distant, No(t)
   Loud, No(t) Widely split , No(t) Fixed)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.2 g/dL
   298 K/uL
   104 mg/dL
   8.9 mg/dL
   21 mEq/L
   4.3 mEq/L
   79 mg/dL
   110 mEq/L
   144 mEq/L
   28.4 %
   9.0 K/uL
        [image002.jpg]
                             [**2187-7-25**]  05:02 AM
                             [**2187-7-25**]  05:13 PM
                             [**2187-7-25**]  10:33 PM
                             [**2187-7-26**]  10:37 AM
                             [**2187-7-26**]  08:01 PM
                             [**2187-7-27**]  05:26 AM
   WBC
   12.0
   10.1
   9.5
   9.0
   Hct
   31.7
   30.6
   28.4
   28.4
   Plt
   299
   280
   294
   298
   Cr
   10.6
   10.3
   9.7
   9.4
   8.9
   TropT
   0.07
   TCO2
   16
   Glucose
   71
   72
   76
   134
   104
   Other labs: CK / CKMB / Troponin-T:73//0.07, Differential-Neuts:72.0 %,
   Band:0.0 %, Lymph:14.0 %, Mono:12.0 %, Eos:2.0 %, Ca++:8.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:7.7 mg/dL
   Assessment and Plan 52 yo female CVA, DM, CRI with Acute on chronic
   renal failure.
   1)Renal: discussed indications for acute HD with Renal [**First Name9 (NamePattern2) 2491**] [**Location (un) 4577**] on
   rounds. He felt strongly that since she had received more fluid
   overnight we should check stat repeat Cr now and if worse proceed with
   HD but if sig better hold off another 24 hrs. We discussed that she is
   quite acidotic with limited respiratory reserve and consistently high
   K.  Going to IR for line place,emt today
   2) OSA: BIPAP at night auto titrate
   3) Delirium: mixed with uremia, acidosis, and med effect. More alert,
   follow exam closely.
   2)DM-continue insulin
   3)CV: continue lopressor, ASA
   4)Wound care-wound care following.
   5)ICU:SC heprin
   6)FEN: renal diet.
   ICU Care
   Nutrition: renal [**Doctor First Name 470**] diet
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2187-7-26**] 03:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: